US05028603
To a solution of 1 g of 4-(2-chlorophenyl)-2-(1-hydroxyethyl)-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine dissolved in 20 ml of pyridine is added 1 ml of acetic anhydride under ice-cooling and then stirred overnight. After completion of the reaction, the mixture is concentrated under reduced pressure and the residue is dissolved in 30 ml of ethyl acetate. The solution is washed with 5% aqueous sodium hydrogencarbonate solution and sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering off, the filtrate is concentrated under reduced pressure and the oily residue is subjected to chromatography on silica gel and eluted with chloroform-methanol (100:1-100:3). The objective fraction is concentrated under reduced pressure to give 0.9 g of 2-(1-acetoxyethyl)-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a]- [1,4]diazepine.hydrochloride melting at 168°-175° C.

reactant | 4-(2-chlorophenyl)-2-(1-hydroxyethyl)-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 1 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C(C)O)C(=NN2)C | C17H15ClN4OS
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-acetoxyethyl)-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a]- [1,4]diazepine.hydrochloride | 0.9 g | Cl.C(C)(=O)OC(C)C1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl | InChI=1S/C19H17ClN4O2S.ClH/c1-10(26-12(3)25)16-8-14-18(13-6-4-5-7-15(13)20)21-9-17-23-22-11(2)24(17)19(14)27-16;/h4-8,10H,9H2,1-3H3;1H
